US05185330
In 150 ml of methanol was suspended 10.0 g of (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-carboxy-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane. Thereto was added 9.2 g of 2,4-dinitrophenylhydrazine hydrochloride at 20°-25° C. The mixture was stirred at the same temperature for 3 hours. 100 ml of water was added to the reaction mixture. The mixture was adjusted to pH 8.0 with concentrated ammonia water. The resulting crystals were removed by filtration. To the filtrate was slowly added concentrated hydrochloric acid to adjust the filtrate to pH 1.5. To the filtrate was added 2.5 g of active carbon, and the mixture was stirred at room temperature for 5 minutes. The active carbon was removed by filtration and washed with water. The filtrate and washings were combined and to the resulting mixture was added 3.9 g of sodium cyanate at room temperature in 60 minutes while maintaining the reaction mixture at pH 1.6 to 2.1 with concentrated hydrochloric acid. After the addition, the mixture was stirred at room temperature for 60 minutes. The resulting crystals were collected by filtration and suspended in 50 ml of water. To the suspension was added concentrated ammonia water to adjust the suspension to pH 9.0. Then, 0.4 g of active carbon was added, and the mixture was stirred at room temperature for 5 minutes. The active carbon was removed by filtration and washed with water. Concentrated hydrochloric acid was added to a mixture of the washings and the previously obtained filtrate to adjust the pH to 4.5. The mixture was stirred at room temperature for 30 minutes. The resulting crystals were collected by filtration, washed with water and acetone in this order, and dried under reduced pressure to obtain 5.81 g (yield: 66.0%) of (3R,5R,6R)-6-amino-3-carboxy-7-oxo-3-(2-oxo-3-ureidoimidazolidin-1-yl)-4-thia-1-azabicyclo[3.2.0]heptane.

reactant | (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-carboxy-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane | 10.0 g | N[C@H]1[C@H]2S[C@](CN2C1=O)(C(=O)O)N1C(N(CC1)N=CC1=CC=CC=C1)=O | C16H17N5O4S
reactant | 2,4-dinitrophenylhydrazine hydrochloride | 9.2 g | Cl.[N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NN
reactant | water | 100 ml | O | H2O
reactant | ammonia water | O.N
solvent | methanol | 150 ml | CO | CH4O
product | (3R,5R,6R)-6-amino-3-carboxy-7-oxo-3-(2-oxo-3-ureidoimidazolidin-1-yl)-4-thia-1-azabicyclo[3.2.0]heptane | 5.81 g, yield: 66.0% | N[C@H]1[C@H]2S[C@@](CN2C1=O)(N1C(N(CC1)NC(=O)N)=O)C(=O)O | C10H14N6O5S
